Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Erythromycin Base / 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is a ___ yo F with history of hyperlipidemia who
presented to the ED on ___ with six weeks of productive
cough and fever referred in by per her PCP after she completed a
course of levofloxacin without improvement in her sx. 

She also complained of central chest pain and right posterior
chest pain that was pleuritic in nature also with mild 
headaches,
sinus pain and ear fullness.
 
In the ED, initial VS were:  100.2 109 121/54 20 99% RA 

Exam notable for: low-grade fever, tachycardia, clear lung
sounds, tenderness to palpation of left calf without swelling.
She has an intermittent wet-sounding cough.
 
Labs showed:  WBC 10.1, Hb 9.5, Hct 27.9, D dimer 786, lactate
1.0, flu negative

Imaging showed: 
--Unilateral ___ US: No evidence of deep venous thrombosis in the
left lower extremity veins.
--CXR w/no acute cardiopulmonary process
 
Patient received: 1000 cc NS, 1 gram IV ceftriaxone, 100 mg
doxycycline
 
Decision was made to admit to medicine for V/Q scan

Transfer VS were: 98.8 93 102/71 16 98% RA 

On arrival to the floor, patient reports six weeks of productive
cough and chest tightness. Chest tightness is associated with
cough. Took levaquin for ten days and sx did not improve. 
Reports
sore throat and congestion. Endorses chest tightness that is
associated with cough. Also endores post nasal drip. Not
associated with breathing. Denies chest pain at rest or with
exertion. No SOB with activity. Denies recent prolonged
immobilization, ___ swelling or pain in the legs. Feels weak and
with low energy. Endorses fever and night sweats. No blood in
stools or black stools. No nausea, vomiting, or diarrhea. No
urinary sx. 
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI
 
Past Medical History:
Hypertension
Hyperlipidemia
GERD
 
Social History:
___
Family History:
Mother: breast cancer, hyperlipidemia, hypertension
Father: hyperlipidemia, hypertension  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS:  99.1 134 / 83 102 16 96 RA 
GENERAL: NAD  
HEENT: MMM 
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTABL, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: NABS, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema, no pain with
palpation of the leg 
PULSES: 2+ DP pulses bilaterally  

DISCHARGE PHYSICAL EXAM:
Vitals:  98.2, HR 95, BP 120/66, RR 18, 96% Ra 
General: alert, oriented, no acute distress  
Lungs: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly   
Ext: no edema
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:50PM BLOOD WBC-10.1* RBC-2.98* Hgb-9.5* Hct-27.9* 
MCV-94 MCH-31.9 MCHC-34.1 RDW-13.4 RDWSD-45.8 Plt ___
___ 05:50PM BLOOD Neuts-69.3 Lymphs-18.7* Monos-10.4 
Eos-0.7* Baso-0.5 Im ___ AbsNeut-6.99*# AbsLymp-1.89 
AbsMono-1.05* AbsEos-0.07 AbsBaso-0.05
___ 05:50PM BLOOD Glucose-94 UreaN-18 Creat-0.9 Na-139 
K-4.0 Cl-100 HCO3-26 AnGap-13
___ 05:50PM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.1
___ 05:50PM BLOOD D-Dimer-786*
___ 08:51PM BLOOD Lactate-1.0

OTHER PERTINENT/DISCHARGE LABS:
===============================

___ 06:30AM BLOOD WBC-10.5* RBC-2.94* Hgb-9.3* Hct-27.6* 
MCV-94 MCH-31.6 MCHC-33.7 RDW-13.2 RDWSD-44.8 Plt ___

MICROBIOLOGY:
=============
___ 11:18PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 9:50 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

___ 8:35 am SPUTUM     Site: EXPECTORATED
      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

Blood cultures x2 ___ - NGTD

REPORTS:
========
CTA ___
No evidence of pulmonary embolism or aortic abnormality.
Ground-glass opacities in the left upper lobe may represent a 
mild infectious or inflammatory process.
 
Brief Hospital Course:
SUMMARY:
___ yo F with history of hyperlipidemia who presented to the ED 
on ___ with six weeks of productive cough and fever after 
she completed a course of levofloxacin without improvement in 
her sx.

#Cough
#Concern for PE
She underwent pre-treatment prior to CTA scan given a reported 
history of throat swelling with prior IV contrast study. There 
were no issues with CTA and she tolerated the procedure well. 
CTA showed no PE and ground-glass opacities in the left upper 
lobe possibly representing a mild infectious or inflammatory 
process. She remained afebrile and throughout her 
hospitalization was satting in the high ___ on room air. Given 
her constellation of symptoms, she most likely developed an 
upper respiratory tract infection, with residual symptoms. 

#HYPERTENSION
-Continued home lisinopril

#HYPERLIPIDEMIA
-Continued atorvastatin

#GERD
-Continued pantoprazole

TRANSITIONAL ISSUES:
[] may consider outpatient pulmonology evaluation if symptoms do 
not improve/ or resolve in the next ___ weeks
[] full code
[] HCP/Husband: ___, Phone number: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Pantoprazole 40 mg PO Q24H 
3. Lisinopril 15 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
3.  Fluticasone Propionate NASAL 2 SPRY NU DAILY 
RX *fluticasone 50 mcg/actuation 2 sprays nasal once daily Disp 
#*1 Spray Refills:*0 
4.  GuaiFENesin ___ mL PO Q6H 
RX *guaifenesin 100 mg/5 mL ___ mL by mouth every 6 hours 
Refills:*0 
5.  Atorvastatin 40 mg PO QPM  
6.  Lisinopril 15 mg PO DAILY  
7.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
upper respiratory tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were recently hospitalized with a persistent 
cough. You were evaluated with a CT scan which showed no 
evidence of a blood clot in your lungs or a pneumonia. This is 
good news! You should follow up with your primary care doctor to 
continue your evaluation.

Please take your medications as prescribed and keep your 
follow-up appointments.

We wish you the best!
Your ___ Care Team
 
Followup Instructions:
___